US08008307B2
Step f: ((1S,2S,4R)-2-hydroxy-4-{[2-(1-naphthyl)-3H-imidazo[4,5-b]pyridin-7-yl]oxy}-cyclopentyl)methyl sulfamate (Compound I-109)
To a solution of ((1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-{[2-(1-naphthyl)-3H-imidazo[4,5-b]pyridin-7-yl]oxy}cyclopentyl)methanol (0.0624 g, 0.000127 mol) in DMA (2.00 mL) was added chlorosulfonamide (0.0736 g, 0.000637 mol) and the mixture was stirred for 1.0 min. To this was added 12 M of hydrochloric acid in water (2.00 mL) dropwise at 0° C. and the mixture was stirred for 10 min. The mixture was added dropwise to 50 mL of a 2N Na2CO3 solution, and was extracted by CH2Cl2 (3×30 ml). The combined organic layers were concentrated and the residue was purified by flash chromatography (0 to 10% MeOH/EtOAc) to provide the title compound (14.5 mg, 25%) as a white solid. 1H NMR (CD3OD, 400 MHz) δ: 8.49 (m, 1H,), 8.28 (m, 1H), 8.06 (d, 1H, J=8.3 Hz), 7.97 (m, 1H), 7.87 (dd, 1H, J=7.0 Hz, J=1.0 Hz) 7.63-7.54 (m, 3H), 6.89 (d, 1H, J=5.8 Hz) 5.40 (bs, 1H), 4.45 (dt, 1H, J=4.9 Hz, J=1.9 Hz), 4.35 (dd, 1H, J=7.2 Hz, J=2.5 Hz), 4.19 (dd, 1H, J=7.2 Hz, J=2.5 Hz), 2.62 (m, 1H), 2.44-2.39 (m, 1H), 2.31-2.25 (m, 1H), 2.18-2.14 (m, 2H). LC/MS: Rt=1.55 min, E+ 455 (AA standard).

reactant | ((1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-{[2-(1-naphthyl)-3H-imidazo[4,5-b]pyridin-7-yl]oxy}cyclopentyl)methanol | 0.000127 mol, 0.0624 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)OC1=C2C(=NC=C1)NC(=N2)C2=CC=CC1=CC=CC=C21)CO | C28H35N3O3Si
reactant | chlorosulfonamide | 0.000637 mol, 0.0736 g | ClS(=O)(=O)N | ClH2NO2S
reactant | hydrochloric acid | 12 M | Cl | ClH
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMA | 2.00 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 2.00 mL | O | H2O
product | ((1S,2S,4R)-2-hydroxy-4-{[2-(1-naphthyl)-3H-imidazo[4,5-b]pyridin-7-yl]oxy}-cyclopentyl)methyl sulfamate | 14.5 mg, 25% | S(N)(OC[C@H]1[C@H](C[C@@H](C1)OC1=C2C(=NC=C1)NC(=N2)C2=CC=CC1=CC=CC=C21)O)(=O)=O | C22H22N4O5S
